US09403798B2
(R)-1-(4-Fluorophenyl)-5-(hydroxymethyl)pyrrolidin-2-one
To (S)-5-(hydroxymethyl)dihydrofuran-2(3H)-one (500 mg, 4.31 mmol), 4-fluoroaniline (574 mg, 5.17 mmol) was added and the resultant mixture was stirred at 150° C. for 3 days. After completion of the reaction, chloroform and hydrochloric acid were added to the reaction solution and extraction from the resultant mixture with chloroform was performed. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain a crude product of the title compound (990 mg).

reactant | (S)-5-(hydroxymethyl)dihydrofuran-2(3H)-one | 4.31 mmol, 500 mg | OC[C@@H]1CCC(O1)=O | C5H8O3
reactant | 4-fluoroaniline | 5.17 mmol, 574 mg | FC1=CC=C(N)C=C1 | C6H6FN
reactant | hydrochloric acid | Cl | ClH
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (R)-1-(4-Fluorophenyl)-5-(hydroxymethyl)pyrrolidin-2-one | 990 mg | FC1=CC=C(C=C1)N1C(CC[C@@H]1CO)=O | C11H12FNO2
